US06727264B1
3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL 3-(2,6-DICHLOROPHENYL)-5-METHYL-4-ISOXAZOLECARBOXYLATE:
Prepared by Procedure Q1 and Scheme C2 (TEA) using N-{3-[1-(3-hydroxypropyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 3-(2,6-dichlorophenyl)-5-methyl-4-isoxazolecarbonyl chloride: ESMS m/e: 558.2 (M+H)+.

reactant | N-{3-[1-(3-hydroxypropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | OCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H28N2O2
reactant | 3-(2,6-dichlorophenyl)-5-methyl-4-isoxazolecarbonyl chloride | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1C(=O)Cl)C | C11H6Cl3NO2
product | 3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL 3-(2,6-DICHLOROPHENYL)-5-METHYL-4-ISOXAZOLECARBOXYLATE | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1C(=O)OCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C | C29H33Cl2N3O4
